US05116726
To 1.332 gr (10 mmol) of n-heptyl mercaptan and 981 mg (10 mmol) of 5-hexyn-1-ol dissolved in 25 ml of heptane under an argon atmosphere was added a few crystals of dibenzoyl peroxide. The reaction was stirred magnetically and heated to reflux for 18 hours. It was then cooled and poured into 25 ml of 10% sodium bicarbonate and extracted with 3×25 ml of ethyl acetate. The organic phases were combined and dried over sodium sulfate, filtered, and evaporated to yield a yellow oil. The oil was chromatographed on eight silica gel type GF preparative plates, using hexane-ethyl acetate (4:1) as developing solvent. Following removal of the band corresponding to product from the plates, the product was extracted from the silica with methanol, 684 mg (30% yield) of pure 7-thia-tetradecan-5-ene-1-ol was obtained as a pale yellow oil.

reactant | n-heptyl mercaptan | 10 mmol, 1.332 gr | C(CCCCCC)S | C7H16S
reactant | 5-hexyn-1-ol | 10 mmol, 981 mg | C(CCCC#C)O | C6H10O
reactant | dibenzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | sodium bicarbonate | 25 ml | C([O-])(O)=O.[Na+]
solvent | heptane | 25 ml | CCCCCCC | C7H16
product | 7-thia-tetradecan-5-ene-1-ol | 684 mg, 30% yield | C(CCCC=CSCCCCCCC)O | C13H26OS
